US06797718B2
Under a nitrogen atmosphere, a solution of N4-[2-(benzyloxy)ethyl]-6-methyl-2-phenoxypyridine-3,4-diamine (3.80 g, 10.9 mmol), anhydrous dichloromethane (75 mL), and anhydrous triethylamine (1.8 mL, 13 mmol) was cooled to 5° C. Ethoxyacetyl chloride (1.40 g, 11.4 mmol) was then added over a period of 30 seconds, and the reaction was stirred for 20 minutes. The reaction mixture was washed with aqueous sodium bicarbonate (3×), and the combined aqueous washings were extracted with chloroform (3×). The combined organic solutions were dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide a white powder. The powder was dried for three days under vacuum at room temperature to provide 4.01 g of N-{4-[2-(benzyloxy)ethylamino]-6-methyl-2-phenoxypyridin-3-yl}-2-ethoxyacetamide as a white solid.

reactant | N4-[2-(benzyloxy)ethyl]-6-methyl-2-phenoxypyridine-3,4-diamine | 10.9 mmol, 3.80 g | C(C1=CC=CC=C1)OCCNC1=C(C(=NC(=C1)C)OC1=CC=CC=C1)N | C21H23N3O2
reactant | triethylamine | 13 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | Ethoxyacetyl chloride | 11.4 mmol, 1.40 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | N-{4-[2-(benzyloxy)ethylamino]-6-methyl-2-phenoxypyridin-3-yl}-2-ethoxyacetamide | 4.01 g | C(C1=CC=CC=C1)OCCNC1=C(C(=NC(=C1)C)OC1=CC=CC=C1)NC(COCC)=O | C25H29N3O4
